US06627755B1
3-(2-Chloro-phenyl)-6-fluoro-2-[(2-fluoro-benzylamino)-methyl]-3H-quinazolin-4-one
A mixture of 3-(2-chloro-phenyl)-6-fluoro-3,4-dihydro-quinazolin-4-one-2-carboxaldehyde (0.20 g, 0.66 mmol), 2-fluorobenzylamine (0.038 mL, 0.33 mmol), and acetic acid (0.19 mL, 3.3 mmol) in dichloroethane (10 mL) was chilled to 0° C. and sodium triacetoxyborohydride (0.350 g, 1.65 mmol) was added. The reaction was stirred for 1 hour at 0° C. and then allowed to warm to ambient temperature and stirred 16 hours. The reaction was quenched by addition of saturated aqueous bicarbonate and continued stirring for 30 minutes. The phases were separated and the aqueous layer was extracted with methylene chloride. The combined organic phase was washed with brine, dried over magnesium sulfate and concentrated. The residue was flash chromatographed on silica gel (30 g) with elution proceeding as follows: 30% ethyl acetate/hexane (100 mL), nil; (50 mL), unweighed impurity; (100 mL), nil; (125 mL), unweighed impurity; (150 mL), unweighed 3-(2-chloro-phenyl)-6-fluoro-3,4-dihydro-quinazolin-4-one-2-methanol; (450 mL), unweighed 3-(2-chloro-phenyl)-6-fluoro-2-[(2-fluoro-benzylamino)-methyl]-3H-quinazolin-4-one as a pale pink solid which had: mp 140° C.; 1H NMR δ 7.89 (dd, J=3, 8 Hz, 1H), 7.76 (dd, J=4, 9 Hz, 1H), 7.58 (dd, J=2, 8 Hz, 1H), 7.53-7.41 (m, 4H), 7.35-7.30 (m, 2H), 7.07 (t, J=8 Hz, 1H), 6.99 (t, J=10 Hz, 1H), 3.89 (ABq, Δv1-3=21 Hz, J=13 Hz, 2H), 3.46 (ABq, Δv1-3=31 Hz, J=17 Hz, 2H); APCI MS m/z=412 (P+1).

reactant | 3-(2-chloro-phenyl)-6-fluoro-3,4-dihydro-quinazolin-4-one-2-carboxaldehyde | 0.66 mmol, 0.20 g | ClC1=C(C=CC=C1)N1C(=NC2=CC=C(C=C2C1=O)F)C=O | C15H8ClFN2O2
reactant | 2-fluorobenzylamine | 0.33 mmol, 0.038 mL | FC1=C(CN)C=CC=C1 | C7H8FN
reactant | acetic acid | 3.3 mmol, 0.19 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.65 mmol, 0.350 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 10 mL | ClC(C)Cl | C2H4Cl2
product | 3-(2-Chloro-phenyl)-6-fluoro-2-[(2-fluoro-benzylamino)-methyl]-3H-quinazolin-4-one | ClC1=C(C=CC=C1)N1C(=NC2=CC=C(C=C2C1=O)F)CNCC1=C(C=CC=C1)F | C22H16ClF2N3O
